US05244997
EXAMPLE 1. ETHYL 1-PYRROLIDINEACETATE
To an ice bath-cooled solution of 213.4 g (3 mol) of pyrrolidine in 450 mL of tetrahydrofuran was added dropwise over about 2 hours 250.5 g (1.5 mol) of ethyl bromoacetate, maintaining the temperature below 30° C. To this solution was added 150 mL of toluene to precipitate pyrrolidinium bromide, which was separated by filtration. The filtrate was evaporated under vacuum to provide a residue of about 241 g of ethyl 1-pyrrolinidineacetate.

reactant | pyrrolidine | 3 mol, 213.4 g | N1CCCC1 | C4H9N
reactant | ethyl bromoacetate | 1.5 mol, 250.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | ETHYL 1-PYRROLIDINEACETATE | N1(CCCC1)CC(=O)OCC | C8H15NO2
